US05179125
Methyl 2-acetyl-3-phenylpropionate (60 g) is dissolved in methanol (300 ml), and thereto is added portionwise sodium boro hydride (2.9 g) with stirring under ice cooling, and the mixture is stirred under ice cooling from 2 hours. The reaction mixture is adjusted to pH 1 with 10% hydrochloric acid, and methanol is distilled off under reduced pressure. The residue is extracted with ethyl acetate. The extract is washed with diluted aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and ethyl acetate is distilled off under reduced pressure to give methyl 2-(1-hydroxyethyl)-3-phenylpropionate (60.4 g).

reactant | Methyl 2-acetyl-3-phenylpropionate | 60 g | C(C)(=O)C(C(=O)OC)CC1=CC=CC=C1 | C12H14O3
reactant | sodium boro hydride | 2.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | methyl 2-(1-hydroxyethyl)-3-phenylpropionate | 60.4 g | OC(C)C(C(=O)OC)CC1=CC=CC=C1 | C12H16O3
